US08106064B2
To a mixture of 5-isopropyl-6-(3′-cyano-5′-methylbenzoyl)-2,4-pyrimidinedione (1.19 g, 4 mmol), 2,4-dichloro-6-chloromethyl-pyrimidine (790 mg, 4 mmol), anhydrous powdered potassium carbonate (552 mg, 4 mmol), and lithium iodide (536 mg, 4 mmol), was added DMF (20 ml). The mixture was stirred at room temperature for overnight and evaporated in vacuo. The residue was then purified by silica gel column chromatography (eluent, EA:hexane (1:2)) to afford 476 mg (26%) of 3-[3-(2,6-dichloro-pyrimidin-4-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile as a pale yellow foam.

reactant | 5-isopropyl-6-(3′-cyano-5′-methylbenzoyl)-2,4-pyrimidinedione | 4 mmol, 1.19 g | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C#N)=O)=O)=O | C16H15N3O3
reactant | 2,4-dichloro-6-chloromethyl-pyrimidine | 4 mmol, 790 mg | ClC1=NC(=CC(=N1)Cl)CCl | C5H3Cl3N2
reactant | potassium carbonate | 4 mmol, 552 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium iodide | 4 mmol, 536 mg | [I-].[Li+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[3-(2,6-dichloro-pyrimidin-4-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 476 mg, 26% | ClC1=NC(=CC(=N1)CN1C(NC(C(=C1C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)=O)=O)Cl | C21H17Cl2N5O3
